US06271238B1
(2) 5-Acetylamino-1-allyl-6-oxo-2-phenyl-1,6-dihydropyrimidine
1-Allyl-5-amino-6-oxo-2-phenyl-1,6-dihydropyrimidine hydrochloride was dissolved in tetrahydrofuran (27 ml) and triethylamine (1.16 ml, 8.33 mmol), and acetyl chloride (0.284 ml, 3.99 mmol) was added to it under cooling on ice, and the mixture was stirred at 0° C. for 30 minutes and at room temperature for 2 hours. After saturated aqueous sodium bicarbonate was added, the reaction solution was extracted with ethyl acetate, and it was washed with saturated saline. After dried over anhydrous sodium sulfate, the organic layer was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/2) whereby the title compound (617 mg, 69%) was obtained.

reactant | 1-Allyl-5-amino-6-oxo-2-phenyl-1,6-dihydropyrimidine hydrochloride | Cl.C(C=C)N1C(=NC=C(C1=O)N)C1=CC=CC=C1
reactant | triethylamine | 8.33 mmol, 1.16 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 3.99 mmol, 0.284 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
product | 5-Acetylamino-1-allyl-6-oxo-2-phenyl-1,6-dihydropyrimidine | C(C)(=O)NC1=CN=C(N(C1=O)CC=C)C1=CC=CC=C1 | C15H15N3O2
